US07368579B2
2-(2-Chloro-6-nitrophenylthio)-4-nitroimidazole (113 mg) and N,N-dimethylformamide (0.5 ml) suspension of 2-methyl-2-oxiranylmethyl (S)-4-nitrobenzenesulfonate (119 mg), potassium carbonate (71 mg) and cesium fluoride (11 mg) were stirred at a room temperature for 3.5 days. Water and ethyl acetate were added to the reaction mixture and the organic layer was taken by separation. The ethyl acetate layer was washed with water and an aqueous solution being saturated with sodium chloride, then dried over anhydrous sodium sulfate. The residue obtained by removal of the solvent by distillation was purified by use of a basic silica gel column chromatography (eluent: n-hexane/ethyl acetate=11/9 to 1/1), then there was obtained (R)-2-(2-chloro-6-nitrophenylthio)-1-(2-methyl-2-oxiranylmethyl)-4-nitroimidazole (85 mg, yield: 61%) as yellow powdery product.

reactant | 2-(2-Chloro-6-nitrophenylthio)-4-nitroimidazole | 113 mg | ClC1=C(C(=CC=C1)[N+](=O)[O-])SC=1NC=C(N1)[N+](=O)[O-] | C9H5ClN4O4S
reactant | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 71 mg | C([O-])([O-])=O.[K+].[K+]
reactant | cesium fluoride | 11 mg | [F-].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | (R)-2-(2-chloro-6-nitrophenylthio)-1-(2-methyl-2-oxiranylmethyl)-4-nitroimidazole | 85 mg, yield: 61% | ClC1=C(C(=CC=C1)[N+](=O)[O-])SC=1N(C=C(N1)[N+](=O)[O-])C[C@]1(OC1)C | C13H11ClN4O5S
